US07495018B2
N-[5-(2-acetylamino-4-pyridyl)-4-(4-methoxyphenyl)-1,3-thiazol-2-yl]acetamide
To a solution of 4-[2-amino-4-(4-methoxyphenyl)-1,3-thiazol-5-yl]-2-pyridylamine (0.40 g, 1.4 mmol) and 4-dimethylaminopyridine (0.055 g, 0.45 mmol) in N,N-dimethylacetamide (10 mL) was added acetyl chloride (0.3 mL, 4.2 mmol), and the mixture was stirred for 14 hours at 70° C. An aqueous sodium hydrogen carbonate solution was poured into the reaction mixture, and extracted with ethyl acetate. The extracts were washed with brine, then, dried and concentrated. The crude crystal was recrystallized from ethanol to obtain a title compound (0.30 g, yield 58%).

reactant | 4-[2-amino-4-(4-methoxyphenyl)-1,3-thiazol-5-yl]-2-pyridylamine | 1.4 mmol, 0.40 g | NC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC(=NC=C1)N | C15H14N4OS
reactant | acetyl chloride | 4.2 mmol, 0.3 mL | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
catalyst | 4-dimethylaminopyridine | 0.45 mmol, 0.055 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[5-(2-acetylamino-4-pyridyl)-4-(4-methoxyphenyl)-1,3-thiazol-2-yl]acetamide | 0.30 g, yield 58% | C(C)(=O)NC1=NC=CC(=C1)C1=C(N=C(S1)NC(C)=O)C1=CC=C(C=C1)OC | C19H18N4O3S
